US09216968B2
2-Chloro-5-(4,4,4-trifluorobutoxy)benzoic acid
To a solution of methyl 2-chloro-5-(4,4,4-trifluorobutoxy)benzoate (74 mg) in MeOH (1 mL) was added 1M aqueous lithium hydroxide solution (0.99 mL) and the reaction mixture was stirred at room temperature for 12 hours. The reaction mixture was stirred under ice-cooling, and 2M hydrochloric acid was added slowly to acidify to pH 2-3. The precipitated solid was filtered, washed with water, and dried under reduced pressure to obtain the titled compound (49 mg) as a colorless powder.

reactant | methyl 2-chloro-5-(4,4,4-trifluorobutoxy)benzoate | 74 mg | ClC1=C(C(=O)OC)C=C(C=C1)OCCCC(F)(F)F | C12H12ClF3O3
reactant | lithium hydroxide | 1M, 0.99 mL | [OH-].[Li+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | MeOH | 1 mL | CO | CH4O
product | 2-Chloro-5-(4,4,4-trifluorobutoxy)benzoic acid | 49 mg | ClC1=C(C(=O)O)C=C(C=C1)OCCCC(F)(F)F | C11H10ClF3O3
